US07442813B2
To a solution of of benzoic acid 4-acetoxy-[1,3]dioxolan-2(R)-ylmethyl ester (6.02 g, 18.8 mm) in dichloroethane (56 mL) was charged TMSI (3.2 mL) at −15° C. After the addition the reaction was stirred for 2 hours at −15° C. HMDS (5.9 mL, 28.2 mm) was added followed by 2-amino-6-cyclopropylaminopurine (3.57 g, 18.8 mm). The reaction was allowed to warm up to room temperature and was stirred for 48 hours followed by 3 hours of reflux. The reaction was cooled to room temperature and poured into saturated sodium bicarbonate solution. The mixture was filtered through a pad of Celite and the organic layer was separated. The aqueous layer was back-extracted with dichloromethane (2×20 mL). The combined organic phases were dried over sodium sulfate and concentrated to a residue. The crude product was purified by flash chromatography (40/60:EtOAc/Hexane followed by DCM/MeOH:25/1) to produce benzoic acid 4(R,S)-(2-amino-6-cyclopropylamino-purin-9-yl)-[1,3]dioxolan-2(R)-ylmethyl ester benzoate-cyclopropylaminopurine (2.25 g, 27% yield, cis/trans:1/1.25).

reactant | benzoic acid 4-acetoxy-[1,3]dioxolan-2(R)-ylmethyl ester | 6.02 g | C(C)(=O)OC1O[C@@H](OC1)COC(C1=CC=CC=C1)=O | C13H14O6
reactant | TMSI | 3.2 mL | [Si](C)(C)(C)I | C3H9ISi
reactant | HMDS | 5.9 mL | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | 2-amino-6-cyclopropylaminopurine | 3.57 g | NC1=NC(=C2NC=NC2=N1)NC1CC1 | C8H10N6
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloroethane | 56 mL | ClC(C)Cl | C2H4Cl2
product | benzoic acid 4(R,S)-(2-amino-6-cyclopropylamino-purin-9-yl)-[1,3]dioxolan-2(R)-ylmethyl ester benzoate cyclopropylaminopurine | 2.25 g, 27% yield | C(C1=CC=CC=C1)(=O)O.NC1=NC(=C2N=CN(C2=N1)C1O[C@@H](OC1)COC(C1=CC=CC=C1)=O)NC1CC1.C1(CC1)NC1=NC=C2NC=NC2=N1 | InChI=1S/C19H20N6O4.C8H9N5.C7H6O2/c20-19-23-16(22-12-6-7-12)15-17(24-19)25(10-21-15)13-8-27-14(29-13)9-28-18(26)11-4-2-1-3-5-11;1-2-5(1)12-8-9-3-6-7(13-8)11-4-10-6;8-7(9)6-4-2-1-3-5-6/h1-5,10,12-14H,6-9H2,(H3,20,22,23,24);3-5H,1-2H2,(H2,9,10,11,12,13);1-5H,(H,8,9)/t13?,14-;;/m1../s1
